US09034907B2
1H-benzo[d]imidazole-5-carbaldehyde (12)
(1H-benzo[d]imidazole-5-yl)methanol (2.8 mmol, 1 eq.) was dissolved in 30 mL dichloromethane and a molecular sieve (4 A) was added. To the solution were added Tetrapropylammonium perruthenate (0.28 mmol, 0.1 eq.) and N-Methylmorpholine-N-Oxide (9.8 mmol, 3.5 eq.). After stirring the mixture for 72 hours at room temperature 50 mL of ether was added and filtrated. The solvent was removed under reduced pressure and the product was purified by means of flash-chromatography using silica gel and a ethyl acetate/MeOH-gradient.

reactant | (1H-benzo[d]imidazole-5-yl)methanol | 2.8 mmol, 1 eq. | N1C=NC2=C1C=CC(=C2)CO | C8H8N2O
reactant | N-Methylmorpholine-N-Oxide | 9.8 mmol, 3.5 eq. | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | ether | 50 mL | CCOCC | C4H10O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | Tetrapropylammonium perruthenate | 0.28 mmol, 0.1 eq. | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 1H-benzo[d]imidazole-5-carbaldehyde | N1C=NC2=C1C=CC(=C2)C=O | C8H6N2O
